US06103708
4-[4-(2-Benzyl-4,5-dimethyl-furan-3-carbonyl)-2,6-diisopropyl-phenoxysulfonyl]-2-hydroxy-benzoic acid
The title compound was prepared according to the procedure in Example 4 using (2-benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone (0.300 g, 0.768 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (0.218 g, 0.922 mmol) to give 0.04 g (9%) of the title compound as a tan solid, mp 142-143° C.; 1H NMR (DMSO-d6) δ 1.04 (d, 12 H), 1.81 (s, 3 H), 2.19 (s, 3 H), 3.07 (septet, 2 H), 3.81 (s, 2 H), 6.95-6.97 (m, 2 H), 7.14-7.20 (m, 3 H), 7.40-7.46 (m, 2 H), 7.47 (s, 2 H), 8.03 (d, 1 H). IR (KBr) 3400, 2950, 1675, 1375, 1180 cm-1. mass spectrum (EI), m/z 590 (M+). Anal. Calcd. for C33H34O8S.1.1H2O: C, 64.92; H, 5.98; N, 0.00. Found: C, 64.92; H, 5.76; N, -0.03.

reactant | (2-benzyl-4,5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone | 0.768 mmol, 0.300 g | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)C(C)C)O)C(C)C)C)C | C26H30O3
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 0.922 mmol, 0.218 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4-(2-Benzyl-4,5-dimethyl-furan-3-carbonyl)-2,6-diisopropyl-phenoxysulfonyl]-2-hydroxy-benzoic acid | 0.04 g, 9% | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(OS(=O)(=O)C2=CC(=C(C(=O)O)C=C2)O)C(=C1)C(C)C)C(C)C)C)C | C33H34O8S
